US03933804
EXAMPLE 37: 5-(6-Isopropoxy-4-methyl-3-hexenyloxy)-1,3-benzodioxol (according to process a)
2.35 g (0.017 mol) of potassium carbonate and 50 mg of potassium iodide are added to a solution of 4.0 g (0.017 mol) of 1-bromo-6-isopropoxy-4-methyl-3-hexene and 2.35 g (0.017 mol) of 3,4-methylendioxy-phenol in 120 cc of acetone. The suspension is boiled under reflux during the course of 20 hours, is then filtered and liberated from acetone in a vacuum. The residue is taken up in ether, washed with water and saturated salt solution, dried over sodium sulphate and evaporated. The residue is chromatographed on silica gel with hexane/ethyl acetate 9 : 1. Thus the cis/trans isomeric mixture of the 5-(6-isopropoxy-4-methyl methyl-3-hexenyloxy)-1,3-benzodioxol is obtained as colourless oil. nD20 = 1.5111.

reactant | potassium carbonate | 0.017 mol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | 1-bromo-6-isopropoxy-4-methyl-3-hexene | 0.017 mol, 4.0 g | BrCCC=C(CCOC(C)C)C | C10H19BrO
reactant | 3,4-methylendioxy-phenol | 0.017 mol, 2.35 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
solvent | acetone | 120 cc | CC(=O)C | C3H6O
product | 5-(6-Isopropoxy-4-methyl-3-hexenyloxy)-1,3-benzodioxol | C(C)(C)OCCC(=CCCOC1=CC2=C(OCO2)C=C1)C | C17H24O4
